US04052408
A solution of 19.8 g of cyclohexylacetyl chloride (b.p. 98° - 100°/23 mm Hg) in 150 ml of dry ether is slowly added at 0°-5° with cooling in an ice-water bath to a vigorously stirred solution of 11 g of diazomethane in 500 ml of ether. The excess diazomethane and ether is distilled off under reduced pressure and cyclohexylmethyl diazomethyl ketone is obtained as residue; infra-red absorption spectrum (in methylene chloride): characteristic bands at 3.45μ, 3.52μ, 4.75μ and 6.12μ; the product is processed without any further purification.

reactant | cyclohexylacetyl chloride | 19.8 g | C1(CCCCC1)CC(=O)Cl | C8H13ClO
reactant | diazomethane | 11 g | [N+](=[N-])=C | CH2N2
solvent | ether | 150 ml | CCOCC | C4H10O
solvent | ether | 500 ml | CCOCC | C4H10O
product | cyclohexylmethyl diazomethyl ketone | [N+](=[N-])=CC(=O)CC1CCCCC1 | C9H14N2O
